Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
latex / Penicillins / morphine
 
Attending: ___
 
Chief Complaint:
right sided numbness and weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Time/Date the patient was last known well: 21:15

I was present during the CT scanning and reviewed the images
within 20 minutes of their completion.

___ Stroke Scale Score: 6

t-PA administered: 
[] Yes - Time given:
[x] No - Reason t-PA was not given or considered:
-out of time frame

Thrombectomy performed: 
[] Yes 
[x] No - Reason not performed or considered:not thrombectomy
candidate given sx not c/w LV occlusion

NIHSS performed within 6 hours of presentation at: 1:34 
time/date
___

NIHSS Total: 6
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 2
5a. Motor arm, left: 0
5b. Motor arm, right: 1
6a. Motor leg, left: 0
6b. Motor leg, right: 1
7.  Limb Ataxia: 0
8.  Sensory: 1
9.  Language: 0
10. Dysarthria: 1
11. Extinction and Neglect: 0

REASON FOR CONSULTATION: Code Stroke

HPI: 
Pt is a ___ yo M w/ PMHx of subdural hematoma after MVC in ___,
Hep C from blood tx, and unknown bradyarrythmia for which a loop
recorder was placed a few weeks ago who was transferred from
outside hospital after being found to have acute onset right
face/arm/leg numbness and weakness. Pt says he had just finished
dinner around 9:15PM when right sided weakness, right sided
numbness, and dysarthria. CTH was done at ___ and patient
transferred to ___. Patient reports right sided throbbing HA
and sensitivity to life in addition to above deficits. He denies
hx of afib, HTN, HLD, prior strokes. Takes no medications daily.

ROS: 
On neurological review of systems, the patient denies confusion,
difficulties comprehending speech, loss of vision, blurred
vision, diplopia, dysphagia, lightheadedness, vertigo, tinnitus
or hearing difficulty. Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.

 
Past Medical History:
Hep C from blood transfusion
Left subdural hematoma after ___ in ___
Unknown brady arrhythmia w/loop recorder placed within the past 
few weeks
 
Social History:
___
Family History:
dad- lung CA, afib
 
Physical Exam:
Vitals: 
BP: afebrile, 129/70, HR:67, BG:99, RR 28 and satting 98% on  RA

General: Awake, cooperative, appears uncomfortable
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused. Right central line in place  
IMPRESSION:  
Abdomen: Soft, obese.
Extremities: +1 BLLE edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is hesitant with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. Intermittent dysarthria. Able to follow both
midline and appendicular commands. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm. EOMI without nystagmus. Normal
saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII:Flattening of right nasolabial fold, facial musculature 
right
lower face slow to activate.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. Slight right pronator
drift. No adventitious movements, such as tremor or asterixis
noted.

  [___]

L    5    5    5    5    5    5    5    5   5    5    5

R    3    5    5    4-   4-   4-    5    5   5    5   4

-Sensory: Decreased sensation to light touch right face, upper,
and lower extremity. Pinprick and proprioception intact. No
extinction to DSS.  

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]

L   2     2      2      2+    1

R   2     2      2      2+    1 

Withdrew on plantar response.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: Deferred

UPON DISCHARGE:
Neuro exam with presenting deficits completely resolved. Patient 
with full strength throughout, no sensory deficits, and 
dysarthria/slurring of speech resolved
 
Pertinent Results:
LABSL
___ 09:20AM 
BLOOD WBC-5.7 RBC-4.41* Hgb-11.1* Hct-37.2* MCV-84 MCH-25.2* 
MCHC-29.8* RDW-17.1* RDWSD-52.1* Plt ___

___ 09:20AM 
BLOOD Neuts-63.5 Lymphs-14.5* Monos-9.3 Eos-11.7* Baso-0.5 Im 
___ AbsNeut-3.63 AbsLymp-0.83* AbsMono-0.53 AbsEos-0.67* 
AbsBaso-0.03

___ 09:20AM 
BLOOD ___ PTT-28.5 ___

___ 09:20AM 
BLOOD Glucose-109* UreaN-11 Creat-1.0 Na-145 K-3.8 Cl-112* 
HCO3-24 AnGap-9*

___ 01:11AM 
BLOOD ALT-15 AST-15 AlkPhos-94 TotBili-0.2

___ 01:11AM 
BLOOD cTropnT-<0.01

___ 09:20AM 
BLOOD %HbA1c-5.8 eAG-120

___ 09:20AM 
BLOOD Triglyc-197* HDL-25* CHOL/HD-5.3 LDLcalc-68

___ 09:20AM 
BLOOD TSH-9.6*

___ 09:20AM 
BLOOD T4-5.4

___ 01:11AM 
BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG Tricycl-NEG

IMAGING:
MRI BRAIN: 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction.  The ventricles and sulci are 
prominent, consistent with global cerebral volume loss. 
  
The visualized paranasal sinuses are final.  The mastoid air 
cells are clear.  The intraorbital contents are normal.  There 
is no abnormal enhancement after contrast administration. 
  
MRA BRAIN: 
Imaging is limited by motion artifact.  Particularly, more 
distal branches 
appear narrowed and irregular bilaterally in the middle cerebral 
and anterior cerebral artery distributions.  It is unclear 
whether this represents vasospasm or artifact due to motion. 
There is no evidence of arterial occlusion or aneurysm 
formation. 
  
MRA NECK: 
The common, internal and external carotid arteries appear 
normal.  There is no evidence of internal carotid artery 
stenosis by NASCET criteria.  The origins of the great vessels, 
subclavian and vertebral arteries appear normal bilaterally.  
Incidental note is made of a 4 vessel aortic arch. 
  
IMPRESSION: 
1. No evidence of mass, hemorrhage or infarction. 
2. Brain MR ___ limited by motion artifact.  There is an 
appearance of diffuse vascular irregularity in narrowing that 
may be artifactual.  Alternatively, this could be a consequence 
of vasospasm. 
3. Normal MRA of the neck without stenosis, by NASCET criteria. 
====================================
LINQ INTERROGATION:

Interrogation:
Battery voltage/time to ERI: RRT since ___
Presenting rhythm: SR

Diagnostics: 
AF episodes: 24 (5 episodes ___, 19 episodes 10min-1hr, 19
episodes 2min-10min)
Pause: 1 (3s at 03:46 on ___
% time in AF: 0.5%

Summary:
1. LINQ function normal. At end of battery life.
2. Evidence of atrial fibrillation (see above)
3. Follow up with outpatient providers

 
___ Course:
Mr. ___ is a ___ yo M w/ PMHx of subdural hematoma after MVC 
in ___, Hep C from blood tx, and unknown bradyarrythmia for 
which a loop recorder was placed a few weeks ago who was 
transferred from outside hospital after being found to have 
acute onset right
face/arm/leg numbness and weakness. Symptoms accompanied by 
throbbing HA which started at the same time. Unusual for patient 
as he normally does not get headaches. NIHSS on arrival of 6, 
but tPA not given as out of time frame. Pt not thrombectomy 
candidate given sx not c/w LV occlusion. Right sided numbness 
and weakness initially concerning for potential left 
thalamo-capsular stroke so patient was admitted for further 
workup. 

We were unable to obtain CTA head/neck as patient reports 
anaphylactic reaction to iodine. MRI/A brain/ head and neck did 
not reveal infarct, hemorrhage, and vasculature was patent. LINQ 
device interrogation showed paroxysmal afib. Transient right 
sided weakness, numbness and slurring of speech resolved without 
intervention within 24 hours of onset. At this time etiology of 
symptoms remains unclear. Differential including TIA, complex 
migraine, and conversion disorder.

# Episode of unknown significance
A1c: 5.8, LDL:68, TSH: 9.6
-Start aspirin 81 daily
-Follow up with neurology in 3 months for monitoring of symptoms

#Atrial fibrillation
- LINQ was interrogated and there was evidence of atrial 
fibrillation occurring 0.1 hrs/day. He will need to follow up 
with his PCP or cardiologist following LINQ device for further 
management

#Endocrine
- Evidence of subclinical hypothyroidism with TSH of 9.6 and T4 
of 5.4. He will need to follow up with PCP for further 
monitoring.

TRANSITIONAL ISSUES:
- Follow up with neurology in 3 months for monitoring of 
neurologic status
- Follow up with cardiology for paroxysmal atrial fibrillation 
on LINQ interrogation
- Follow up with PCP for subclinical hypothyroidism
 
Medications on Admission:
NONE.
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Episode of unknown significance 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
 
You were hospitalized due to symptoms of headache with right 
sided numbness/weakness and slurring of speech concerning for 
stroke. Imaging shows that you did not have a stroke. It is 
possible that these symptoms could be from a transient ischemic 
attack, a migraine, or stress.

You will have no new medications to take after discharge. 
However follow up is very important. 
-Please see your primary care provider for general follow up and 
to monitor your thyroid levels.
-Please see your cardiologist within 2 weeks of hospital 
discharge. Your LINQ device shows paroxysmal atrial 
fibrillation, which means your heart occasionally has an 
irregular rhythm. This needs to be monitored 
-Please schedule to see a neurologist for 3 months after 
hospital discharge to monitor your neurologic status.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

It was a pleasure taking care of you! Wishing you safe travels 
back to ___.

Sincerely,  
Your ___ Neurology Team  
 
Followup Instructions:
___